US07365085B2
b) (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopentyl-amine dihydrochloride salt
(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamine dihydrochloride (53 mg, 0.086 mmol) was diluted with absolute ethanol (3 mL). Next, both cyclopentanone (7.2 mg, 0.086 mmol) and sodium cyanoborohydride (19.2 mg, 0.3 mmol) were added to the solution. The reaction mixture was stirred at room temperature overnight and concentrated under a stream of argon. Water was added and the reaction mixture was extracted with ethyl acetate. The crude amine was purified by preparative HPLC chromatography (Varian Mega BondElut Si) to afford the title compound as the free base. Addition of 1 N HCl in Et2O gave the title compound as a white powder, 22 mg (42%). MS (ESI) 608 (M+H+).

reactant | 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamine dihydrochloride | 0.086 mmol, 53 mg | Cl.Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)N)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F
reactant | cyclopentanone | 0.086 mmol, 7.2 mg | C1(CCCC1)=O | C5H8O
reactant | sodium cyanoborohydride | 0.3 mmol, 19.2 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-phenyl)-cyclopentyl-amine dihydrochloride salt | Cl.Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)NC2CCCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C36H38ClF3N2O.2ClH/c37-35-29(16-9-21-34(35)36(38,39)40)25-42(26-33(27-12-3-1-4-13-27)28-14-5-2-6-15-28)22-11-23-43-32-20-10-19-31(24-32)41-30-17-7-8-18-30;;/h1-6,9-10,12-16,19-21,24,30,33,41H,7-8,11,17-18,22-23,25-26H2;2*1H
